US04587342
B. Ethyl 2-cyano-3-(7,8-dimethoxy-2H-1-benzopyran-5-yl)propanoate
A mixture of ethyl 2-cyano-3-(7,8-dimethoxy-2H-1-benzopyran-5-yl)-propenoate (19.8 g, 0.63 mole) in ethanol (500 mL) under nitrogen was treated with acidic acid (4 mL) and a trace of bromocresol green and heated to reflux. Heating was discontinued and sodium cyanoborohydride (4.4 g, 0.07 mole) in ethanol (100 mL) was co-added with additional acetic acid (11 mL). The mixture was stirred under nitrogen for 2 hr, acetic acid (10 mL) added and the ethanol removed under reduced pressure. The resultant yellow solid was taken up in ethyl acetate (250 mL) and successively extracted with water (125 mL), saturated sodium bicarbonate (3×100 mL) and water (100 mL), then dried over magnesium sulfate. The volatiles were removed under reduced pressure to leave an amber oil, 18.22 g (91.4%) which was used without further purification.

reactant | ethyl 2-cyano-3-(7,8-dimethoxy-2H-1-benzopyran-5-yl)-propenoate | 0.63 mole, 19.8 g | C(#N)C(C(=O)OCC)=CC1=CC(=C(C2=C1C=CCO2)OC)OC | C17H17NO5
reactant | bromocresol green | CC1=C(C=C(C(=C1Br)O)Br)C2(C=3C=CC=CC3S(=O)(=O)O2)C=4C=C(C(=C(C4C)Br)O)Br | C21H14Br4O5S
reactant | sodium cyanoborohydride | 0.07 mole, 4.4 g | C(#N)[BH3-].[Na+]
reactant | acetic acid | 11 mL | C(C)(=O)O | C2H4O2
reactant | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
solvent | ethanol | 500 mL | C(C)O | C2H6O
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | Ethyl 2-cyano-3-(7,8-dimethoxy-2H-1-benzopyran-5-yl)propanoate | C(#N)C(C(=O)OCC)CC1=CC(=C(C2=C1C=CCO2)OC)OC | C17H19NO5
